US05151417
4-Methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-3-tert-butyldimethylsilyloxy-1-propenyl]-3-cephem-4-carboxylate
A solution of 4-methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(triphenylphosphoranylidene)methyl- 3-cephem-4-carboxylate (10.5 g; 10.30 mmol) and t-butyldimethylsilyloxyacetaldehyde (2.58 g; 14.83 mmol) in dichloromethane (100 ml) was stirred at room temperature for 16 hours. After the solvent was distilled off under reduced pressure, the residue was purified by chromatography on a silica gel column (n-hexane:ethyl acetate=2.5:1) whereby the title compound (4.30 g; 4.72 mmol; 45.8%) was obtained.

reactant | 4-methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(triphenylphosphoranylidene)methyl- 3-cephem-4-carboxylate | 10.30 mmol, 10.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C59H50N5O6PS2
reactant | t-butyldimethylsilyloxyacetaldehyde | 14.83 mmol, 2.58 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-3-tert-butyldimethylsilyloxy-1-propenyl]-3-cephem-4-carboxylate | 4.72 mmol, 4.30 g, 45.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CO[Si](C)(C)C(C)(C)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C49H53N5O7S2Si
